US07601722B2
To a solution of N,N′-dimethylethylenediamine (10.58 g, 120 mmol, 4 equiv.) in tetrahydrofuran (200 mL) at 0° C. was added dropwise over 35 min a solution of di-tert-butyl dicarbonate (6.55 g, 30.0 mmol, 1 equiv.) in tetrahydrofuran (60 mL) via an addition funnel. The reaction mixture was stirred at 0° C. for 1 h, and at room temperature overnight. All volatiles were removed under reduced pressure, and the residue was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried (anhydrous sodium sulfate), filtered, and concentrated to give tert-butyl methyl[2-(methylamino)ethyl]carbamate as a colorless liquid. Yield: 4.75 g (84%).

reactant | N,N′-dimethylethylenediamine | 120 mmol, 10.58 g, 4 equiv. | CNCCNC | C4H12N2
reactant | di-tert-butyl dicarbonate | 30.0 mmol, 6.55 g, 1 equiv. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | tert-butyl methyl[2-(methylamino)ethyl]carbamate | CN(C(OC(C)(C)C)=O)CCNC | C9H20N2O2
